US08859768B2
To a round bottom flask were added methyl 5-(2-chlorophenyl)-1,3-oxazole-4-carboxylate (2.25 g, 9.5 mmol) and THF (50 mL). The mixture was cooled to −78° C. LiHMDS (1M in hexane, 12.3 mL, 12.3 mmol) was added dropwise. The mixture was allowed to stir at −78° C. for 1 h. Iodine (3.60 g, 14.2 mmol) was added and the mixture was allowed to stir at −78° C. for 20 min. The mixture was allowed to warm to rt and stir overnight. The reaction mixture was poured into 10% sodium thiosulfate (100 mL) and was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over MgSO4, filtered, and concentrated to give methyl 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylate (3.0 g, 87%) which was used without further purification.

reactant | methyl 5-(2-chlorophenyl)-1,3-oxazole-4-carboxylate | 9.5 mmol, 2.25 g | ClC1=C(C=CC=C1)C1=C(N=CO1)C(=O)OC | C11H8ClNO3
reactant | LiHMDS | 12.3 mmol, 1M, 12.3 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Iodine | 14.2 mmol, 3.60 g | II | I2
reactant | sodium thiosulfate | 100 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl 5-(2-chlorophenyl)-2-iodo-1,3-oxazole-4-carboxylate | 3.0 g, 87% | ClC1=C(C=CC=C1)C1=C(N=C(O1)I)C(=O)OC | C11H7ClINO3
